US04950667
Synthesis of 2-chloro-N-[2-(phenylamino)phenyl]-acetamide:
In 100 ml of chloroform, 10.4 g of N-phenyl-1,2-benzenediamine and 12.1 g of triethylamine were dissolved, and the mixture was cooled to -5° C. to 0° C., and then 13.6 g of chloroacetyl chloride was added dropwise thereto, holding the temperature of the mixture at not higher than 20° C. The reaction nearly went to completion when the addition was finished. After stirring for further 30 minutes, the reaction mixture was diluted with 50 ml of water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate and then the solvent is evaporated under reduced pressure. The resulting solid was recrystallized from ethanol to give 15.6 g of crystals having a melting point of 112° C. to 113° C. Yield: 60.0%.

reactant | N-phenyl-1,2-benzenediamine | 10.4 g | C1(=CC=CC=C1)NC=1C(=CC=CC1)N | C12H12N2
reactant | triethylamine | 12.1 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 13.6 g | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
product | 2-chloro-N-[2-(phenylamino)phenyl]-acetamide | 15.6 g, Yield: 60.0% | ClCC(=O)NC1=C(C=CC=C1)NC1=CC=CC=C1 | C14H13ClN2O
